US06642383B2
Prepration of 3-[2-(3,3,5,5-tetramethyl-2-oxo-piperazin-1-yl)-ethoxy]-propylamine
215.9 g (0.85 moles) of 3-[2-(3,3,5,5-tetramethyl-2-oxo-piperazin-1-yl)-ethoxy]-propionitrile are dissolved in 900 m of methanol and hydrogenated at 120° C. and at 50 bars in the presence of 100 g of Ni Raney as catalyst. The mixture is then filtered and the organic phase is evaporated under vacuum (40° C./1 0 mbar). The residue is distilled giving a white oil b.p. 130-136OC./0.8 mbar.

reactant | 3-[2-(3,3,5,5-tetramethyl-2-oxo-piperazin-1-yl)-ethoxy]-propionitrile | 0.85 moles, 215.9 g | CC1(C(N(CC(N1)(C)C)CCOCCC#N)=O)C | C13H23N3O2
solvent | methanol | CO | CH4O
catalyst | Ni | 100 g | [Ni] | Ni
product | 3-[2-(3,3,5,5-tetramethyl-2-oxo-piperazin-1-yl)-ethoxy]-propylamine | CC1(C(N(CC(N1)(C)C)CCOCCCN)=O)C | C13H27N3O2
